US07531539B2
212A. Preparation of benzyl 4-(trifluoromethylsulfonyloxy)-2,3-dihydro-1H-pyrrole-1-carboxylate
A solution of benzyl 3-oxopyrrolidine-1-carboxylate (300 mg, 1.4 mmol) in THF (10 mL) was treated with lithium bis(trimethylsilyl)amide (1.5 mL, 1 M in THF, 1.5 mmol) at −78° C. After stirring 15 minutes at −78° C., N-phenyltrifluoromethanesulfonimide (600 mg, 1.7 mmol) was added. The reaction mixture was then warmed to room temperature. The reaction was quenched with the addition of saturated aqueous NaHCO3 (10 mL), and then extracted with ethyl ether (10 mL). The organic layer was washed with saturated aqueous NaCl solution (10 mL), and then dried over Na2SO4. The crude mixture was filtered, concentrated and purified by flash chromatography (SiO2, 30% ethyl acetate/hexane) to afford the title compound (400 mg, 82%). 1HNMR (500 MHz, CDCl3) δ 7.26 (m, 5H), 5.50 (s, 1H), 4.76 (s, 2H), 3.20 (m, 2H).

reactant | benzyl 3-oxopyrrolidine-1-carboxylate | 1.4 mmol, 300 mg | O=C1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | lithium bis(trimethylsilyl)amide | 1.5 mmol, 1 M, 1.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-phenyltrifluoromethanesulfonimide | 1.7 mmol, 600 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzyl 4-(trifluoromethylsulfonyloxy)-2,3-dihydro-1H-pyrrole-1-carboxylate | 400 mg, 82% | FC(S(=O)(=O)OC=1CCN(C1)C(=O)OCC1=CC=CC=C1)(F)F | C13H12F3NO5S
